US04371536
A suspension of 5 g of β-carbolin-3-carboxylic acid in a mixture of 900 ml of tetrahydrofuran and 3.6 ml of triethylamine is boiled under reflux for 15 minutes and cooled to room temperature. Freshly distilled ethyl chloroformate (2.5 ml), dissolved in 100 ml of tetrahydrofuran, is added dropwise with stirring over a period of 11/2 hours. After the reaction mixture has been stirred for an additional 30 minutes, a large excess of methylamine is added. Stirring is continued for one hour, whereafter the mixture is filtered and concentrated to approximately 50 ml under reduced pressure. Addition of water (250 ml) causes the amide to precipitate. The mixture is left at 5° C. overnight, filtered and dried at 60° C. for 15 hours. β-carbolin-3-carboxylic acid methylamide thus formed (4.1 g; 77%) is recrystallized from toluene. The melting point is 275° C.

reactant | β-carbolin-3-carboxylic acid | 5 g | C1=NC(=CC=2C3=CC=CC=C3NC12)C(=O)O | C12H8N2O2
reactant | ethyl chloroformate | 2.5 ml | ClC(=O)OCC | C3H5ClO2
reactant | methylamine | CN | CH5N
solvent | tetrahydrofuran | 900 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 3.6 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | β-carbolin-3-carboxylic acid methylamide | CNC(=O)C=1N=CC=2NC3=CC=CC=C3C2C1 | C13H11N3O
